US04772751
Following the method of Example 1, reaction of sec-butyllithium (208 mL, 250 mmol) and triisopropoxyborane (47.0 mL, 250 mmol), with solvents removed at 0° C. and 15 mm Hg and oil bath temperature maintained at 50° C., yielded sec-butyldiisopropoxyborane, 42.0 g (206 mmol, 90%), bp 138°-140° C. (754 mm Hg); proton NMR (neat) δ4.35 (septet, J=18 Hz, 2H), 1.09 (d, J=18 Hz, 12H), 0.8 (bm, 9H); boron NMR (neat) δ+79.5 ppm (s).

reactant | sec-butyllithium | 250 mmol, 208 mL | C(C)(CC)[Li]
reactant | triisopropoxyborane | 250 mmol, 47.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
product | sec-butyldiisopropoxyborane | C(C)(CC)B(OC(C)C)OC(C)C | C10H23BO2
